* D:\Projetos\Github\esp32-arduino\mains-voltmeter\simmulation\schematic.asc
XU1 N005 N006 N005 opamp Aol=100K GBW=10Meg
XU2 N001 N003 N002 opamp Aol=100K GBW=10Meg
R1 5V N006 1k
R2 N006 0 1k
R3 N003 N004 100k
R4 N001 Vmains 100k
R5 N002 N001 1k
R6 N005 N003 1k
V1 Vmains N004 SINE(0 180 60)
V2 5V 0 5
R7 Vsense N002 1k
R8 0 Vsense 2k
.lib opamp.sub
.tran 100m
.backanno
.end
